US06372743B1
C. {2-[3-(2,6-Dichloro-4-trimethylsilanylethynyl-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino]-ethyl}-(tetrahydro-pyran-4-yl)-carbamic acid tert-butyl ester
A suspension of methanesulfonic acid 4-(7-{2-[tert-butoxycarbonyl-(tetrahydro-pyran-4-yl)-amino]-ethylamino}-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl)-3,5-dichloro-phenyl ester (1.5 g, 2.2 mmol) in acetonitrile (5 mL)/triethylamine (1.9 mL) was degassed (3×) by alternately pulling a vacuum followed by repressurization with nitrogen. Trimethylsilylacetylene (0.50 mL, 3.6 mmol), dichlorobis(triphenylphosphine)palladium (65 mg, 0.093 mmol), and copper(I) iodide (42 mg, 0.22 mmol) were added, and the mixture was degassed (3×) again. The mixture was stirred for 4 hours at 65° C., the black mixture was extracted from saturated aqueous sodium bicarbonate with methylene chloride, dried (Na2SO4), filtered through Celite, concentrated under reduced pressure, and then chromatographed (7:3 hexanes/ethyl acetate) to give the product as a light brown foam (1.2 g, 89%): +APcI MS (M+1)+630; 1H NMR (CDCl3) δ: 7.51 (s, 2H), 5.82 (s, 1H), 2.44 (s, 3H), 2.23 (s, 3H), 1.53 (s, 9H), 0.24 (s, 9H).

reactant | methanesulfonic acid 4-(7-{2-[tert-butoxycarbonyl-(tetrahydro-pyran-4-yl)-amino]-ethylamino}-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-3-yl)-3,5-dichloro-phenyl ester | 2.2 mmol, 1.5 g | C(C)(C)(C)OC(=O)N(CCNC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2Cl)OS(=O)(=O)C)Cl)C)C)C2CCOCC2 | C27H35Cl2N5O6S
reactant | triethylamine | 1.9 mL | C(C)N(CC)CC | C6H15N
reactant | Trimethylsilylacetylene | 3.6 mmol, 0.50 mL | C[Si](C)(C)C#C | C5H10Si
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
catalyst | dichlorobis(triphenylphosphine)palladium | 0.093 mmol, 65 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.22 mmol, 42 mg | [Cu]I
product | {2-[3-(2,6-Dichloro-4-trimethylsilanylethynyl-phenyl)-2,5-dimethyl-pyrazolo[1,5-a]pyrimidin-7-ylamino]-ethyl}-(tetrahydro-pyran-4-yl)-carbamic acid tert-butyl ester | 1.2 g, 89% | C(C)(C)(C)OC(N(C1CCOCC1)CCNC1=CC(=NC=2N1N=C(C2C2=C(C=C(C=C2Cl)C#C[Si](C)(C)C)Cl)C)C)=O | C31H41Cl2N5O3Si
